### PR TITLE
[Merged by Bors] - feat: Cardinal of GLn with coefficients in a finite field 

### PR DESCRIPTION
**Pull request by ThomasLanard**
---
We add the cardinal of the general linear group GLn with coefficients in a finite field.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup.lean [hunk 1]
```diff
@@ -329,4 +331,98 @@ def planeConformalMatrix {R} [Field R] (a b : R) (hab : a ^ 2 + b ^ 2 ≠ 0) :
...
+    Fintype ((Submodule.span 𝔽 (Set.range (s : Fin k → Fin n → 𝔽)))ᶜ : Set (Fin n → 𝔽)) :=
+  Fintype.ofFinite _
+
+lemma complement_card {k : ℕ} (s : { s : Fin k → Fin n → 𝔽 // LinearIndependent 𝔽 s }):
+    Fintype.card ((Submodule.span 𝔽 (Set.range (s : Fin k → Fin n → 𝔽)))ᶜ : Set (Fin n → 𝔽)) =
+      (q) ^ n - (q) ^ k := by
+  rw [Fintype.card_compl_set, Fintype.card_fun, Fintype.card_fin]
+  simp only [SetLike.coe_sort_coe]
+  rw [card_eq_pow_finrank (K := 𝔽) (V := Submodule.span 𝔽 (Set.range (s : Fin k → Fin n → 𝔽))),
+    finrank_span_eq_card s.property, Fintype.card_fin]
```
Comment (CBirkbeck) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup.lean:358]:
```suggestion
lemma complement_card {k : ℕ} (s : { s : Fin k → Fin n → 𝔽 // LinearIndependent 𝔽 s }):
    Fintype.card ((Submodule.span 𝔽 (Set.range (s : Fin k → Fin n → 𝔽)))ᶜ : Set (Fin n → 𝔽)) =
      (q) ^ n - (q) ^ k := by
  simp only [Fintype.card_compl_set, Fintype.card_pi, Finset.prod_const, Finset.card_univ,
    Fintype.card_fin, SetLike.coe_sort_coe,
    card_eq_pow_finrank (K := 𝔽) (V := Submodule.span 𝔽 (Set.range (s : Fin k → Fin n → 𝔽))),
    finrank_span_eq_card s.property]
```

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup.lean [hunk 2]
```diff
@@ -329,4 +331,98 @@ def planeConformalMatrix {R} [Field R] (a b : R) (hab : a ^ 2 + b ^ 2 ≠ 0) :
...
+  toFun s := by
+    have := linearIndependent_fin_succ.mp s.property
+    use ⟨Fin.tail s.val, this.left⟩
+    exact ⟨s.val 0, this.right⟩
+  invFun s := by
+    use Fin.cons s.2.val s.1.val
+    exact linearIndependent_fin_cons.mpr ⟨s.1.property, s.2.property⟩
+  left_inv _ := by simp only [Fin.cons_self_tail, Subtype.coe_eta]
+  right_inv := fun ⟨_, _⟩ => by simp only [Fin.cons_zero, Subtype.coe_eta, Sigma.mk.inj_iff,
+    Fin.tail_cons, heq_eq_eq, and_self]
```
Comment (CBirkbeck) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup.lean:373]:
```suggestion
def inductiveStepEquiv {k : ℕ} :
    { s : Fin (k + 1) → Fin n → 𝔽 // LinearIndependent 𝔽 s } ≃
      Σ s : { s : Fin k → Fin n → 𝔽 // LinearIndependent 𝔽 s },
        ((Submodule.span 𝔽 (Set.range (s : Fin k → Fin n → 𝔽)))ᶜ : Set (Fin n → 𝔽)) where
  toFun s := by
    refine ⟨⟨Fin.tail s.val, (linearIndependent_fin_succ.mp s.property).left⟩,
      ⟨s.val 0, (linearIndependent_fin_succ.mp s.property).right⟩⟩
  invFun s := by
    refine ⟨Fin.cons s.2.val s.1.val, linearIndependent_fin_cons.mpr ⟨s.1.property, s.2.property⟩⟩
  left_inv _ := by simp only [Fin.cons_self_tail, Subtype.coe_eta]
  right_inv := fun ⟨_, _⟩ => by simp only [Fin.cons_zero, Subtype.coe_eta, Sigma.mk.inj_iff,
    Fin.tail_cons, heq_eq_eq, and_self]
```

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup.lean [hunk 3]
```diff
@@ -329,4 +331,98 @@ def planeConformalMatrix {R} [Field R] (a b : R) (hab : a ^ 2 + b ^ 2 ≠ 0) :
...
+  Fintype.ofFinite _
+
+lemma complement_card {k : ℕ} (s : { s : Fin k → Fin n → 𝔽 // LinearIndependent 𝔽 s }):
+    Fintype.card ((Submodule.span 𝔽 (Set.range (s : Fin k → Fin n → 𝔽)))ᶜ : Set (Fin n → 𝔽)) =
+      (q) ^ n - (q) ^ k := by
+  rw [Fintype.card_compl_set, Fintype.card_fun, Fintype.card_fin]
+  simp only [SetLike.coe_sort_coe]
+  rw [card_eq_pow_finrank (K := 𝔽) (V := Submodule.span 𝔽 (Set.range (s : Fin k → Fin n → 𝔽))),
+    finrank_span_eq_card s.property, Fintype.card_fin]
+
```
Comment (CBirkbeck) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup.lean:359]: Since this is a `def` it will need a docstring. So add something like /-- Define equivalence from... -/ in the line above.

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup.lean [hunk 4]
```diff
@@ -329,4 +331,98 @@ def planeConformalMatrix {R} [Field R] (a b : R) (hab : a ^ 2 + b ^ 2 ≠ 0) :
...
+lemma card_LinearInependent_subtype {k : ℕ} (hk : k ≤ n) :
+    Fintype.card { s : Fin k → (Fin n → 𝔽) // LinearIndependent 𝔽 s } =
+      ∏ i : Fin k, ((q) ^ n - (q) ^ i.val) := by
+  induction' k with k ih
+  · simp only [Nat.zero_eq, LinearIndependent, Finsupp.total_fin_zero, LinearMap.ker_zero,
+    Fintype.card_ofSubsingleton, Finset.univ_eq_empty, Finset.prod_empty]
+  · simp only [Fintype.card_congr (inductiveStepEquiv n), Fintype.card_sigma, complement_card n, Finset.sum_const, Finset.card_univ, smul_eq_mul, ih (Nat.le_of_succ_le hk), mul_comm,
+    Fin.prod_univ_succAbove _ k, Fin.natCast_eq_last, Fin.val_last, Fin.succAbove_last,
+    Fin.coe_castSucc]
```
Comment (CBirkbeck) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup.lean:383]:
```suggestion
lemma card_LinearInependent_subtype {k : ℕ} (hk : k ≤ n) :
    Fintype.card { s : Fin k → (Fin n → 𝔽) // LinearIndependent 𝔽 s } =
      ∏ i : Fin k, ((q) ^ n - (q) ^ i.val) := by
  induction' k with k ih
  · simp only [Nat.zero_eq, LinearIndependent, Finsupp.total_fin_zero, LinearMap.ker_zero,
    Fintype.card_ofSubsingleton, Finset.univ_eq_empty, Finset.prod_empty]
  · simp only [Fintype.card_congr (inductiveStepEquiv n), Fintype.card_sigma, complement_card n,
    Finset.sum_const, Finset.card_univ, ih (Nat.le_of_succ_le hk), smul_eq_mul, mul_comm,
    Fin.prod_univ_succAbove _ k, Fin.natCast_eq_last, Fin.val_last, Fin.succAbove_last,
    Fin.coe_castSucc]
```

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup.lean [hunk 5]
```diff
@@ -329,4 +331,98 @@ def planeConformalMatrix {R} [Field R] (a b : R) (hab : a ^ 2 + b ^ 2 ≠ 0) :
...
+    have := linearIndependent_fin_succ.mp s.property
+    use ⟨Fin.tail s.val, this.left⟩
+    exact ⟨s.val 0, this.right⟩
+  invFun s := by
+    use Fin.cons s.2.val s.1.val
+    exact linearIndependent_fin_cons.mpr ⟨s.1.property, s.2.property⟩
+  left_inv _ := by simp only [Fin.cons_self_tail, Subtype.coe_eta]
+  right_inv := fun ⟨_, _⟩ => by simp only [Fin.cons_zero, Subtype.coe_eta, Sigma.mk.inj_iff,
+    Fin.tail_cons, heq_eq_eq, and_self]
+
```
Comment (CBirkbeck) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup.lean:374]: The bot is complaining about the lines being too long. There is a 100 character limit. If you put `#lint` at the end of the file it will tell you any things that need fixing, although my suggestion should fix it.

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup.lean [hunk 6]
```diff
@@ -329,4 +331,98 @@ def planeConformalMatrix {R} [Field R] (a b : R) (hab : a ^ 2 + b ^ 2 ≠ 0) :
...
+      ∏ i : Fin k, ((q) ^ n - (q) ^ i.val) := by
+  induction' k with k ih
+  · simp only [Nat.zero_eq, LinearIndependent, Finsupp.total_fin_zero, LinearMap.ker_zero,
+    Fintype.card_ofSubsingleton, Finset.univ_eq_empty, Finset.prod_empty]
+  · simp only [Fintype.card_congr (inductiveStepEquiv n), Fintype.card_sigma, complement_card n, Finset.sum_const, Finset.card_univ, smul_eq_mul, ih (Nat.le_of_succ_le hk), mul_comm,
+    Fin.prod_univ_succAbove _ k, Fin.natCast_eq_last, Fin.val_last, Fin.succAbove_last,
+    Fin.coe_castSucc]
+
+lemma eq_matrix_basis (M : Matrix (Fin n) (Fin n) 𝔽) :
+    M = Basis.toMatrix (Pi.basisFun 𝔽 (Fin n)) (transpose M) := rfl
```
Comment (CBirkbeck) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup.lean:386]: You can remove this, if you change the lemma below to what I've suggested.

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup.lean [hunk 7]
```diff
@@ -329,4 +331,98 @@ def planeConformalMatrix {R} [Field R] (a b : R) (hab : a ^ 2 + b ^ 2 ≠ 0) :
...
+    rw [show M = ⇑b by simp only [b, coe_basisOfLinearIndependentOfCardEqFinrank]]
+    have : Invertible ((Pi.basisFun F (Fin n)).toMatrix ⇑b) :=
+      (Pi.basisFun F (Fin n)).invertibleToMatrix b
+    exact isUnit_det_of_invertible _
+  left_inv := by
+    intro
+    ext
+    simp only [transpose_transpose]
+    exact rfl
+  right_inv := by exact congrFun rfl
```
Comment (CBirkbeck) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup.lean:411]:
```suggestion
noncomputable def equiv_GL_linearindependent {F : Type*} [Field F] (hn : 0 < n) :
    GL (Fin n) F ≃ { s : Fin n → (Fin n → F) // LinearIndependent F s } where
  toFun M := ⟨transpose M, by
    apply linearIndependent_iff_card_eq_finrank_span.2
    rw [Set.finrank, ← rank_eq_finrank_span_cols, rank_unit]⟩
  invFun M := by
    apply GeneralLinearGroup.mk'' (transpose (M.1))
    rw [show M.1ᵀ = Basis.toMatrix (Pi.basisFun F (Fin n)) (transpose (M.1)ᵀ) by rfl,
      transpose_transpose]
    have : Nonempty (Fin n) := Fin.pos_iff_nonempty.1 hn
    have hdim : Fintype.card (Fin n) = FiniteDimensional.finrank F (Fin n → F) := by
      simp only [Fintype.card_fin, FiniteDimensional.finrank_fintype_fun_eq_card]
    let b := basisOfLinearIndependentOfCardEqFinrank M.2 hdim
    rw [show M = ⇑b by simp only [b, coe_basisOfLinearIndependentOfCardEqFinrank]]
    have : Invertible ((Pi.basisFun F (Fin n)).toMatrix ⇑b) :=
      (Pi.basisFun F (Fin n)).invertibleToMatrix b
    exact isUnit_det_of_invertible _
  left_inv := fun x ↦ Units.ext (ext fun i j ↦ rfl)
  right_inv := by exact congrFun rfl
```

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup.lean [hunk 8]
```diff
@@ -329,4 +331,98 @@ def planeConformalMatrix {R} [Field R] (a b : R) (hab : a ^ 2 + b ^ 2 ≠ 0) :
...
+    exact Fintype.ofFinite (GL (Fin n) 𝔽)
+
+theorem card_GL : Fintype.card (GL (Fin n) 𝔽) =
+        ∏ i : (Fin n), (q ^ (n) - q ^ ( i : ℕ )) := by
+    by_cases hn : n = 0
+    · rw [hn]
+      simp only [Fintype.card_unique, Finset.univ_eq_empty, mul_zero, pow_zero,
+      Finset.prod_empty]
+    · rw [Fintype.card_congr (equiv_GL_linearindependent n (Nat.pos_of_ne_zero hn))]
+      exact card_LinearInependent_subtype _ (Nat.le_refl n)
```
Comment (CBirkbeck) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup.lean:423]:
```suggestion
theorem card_GL : Fintype.card (GL (Fin n) 𝔽) = ∏ i : (Fin n), (q ^ (n) - q ^ ( i : ℕ )) := by
  by_cases hn : n = 0
  · rw [hn]
    simp only [hn, Fintype.card_unique, Finset.univ_eq_empty, mul_zero, pow_zero,
    Finset.prod_empty]
  · rw [Fintype.card_congr (equiv_GL_linearindependent n (Nat.pos_of_ne_zero hn))]
    exact card_LinearInependent_subtype _ (Nat.le_refl n)
```

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup.lean [hunk 9]
```diff
@@ -329,4 +331,98 @@ def planeConformalMatrix {R} [Field R] (a b : R) (hab : a ^ 2 + b ^ 2 ≠ 0) :
...
+  left_inv := by
+    intro
+    ext
+    simp only [transpose_transpose]
+    exact rfl
+  right_inv := by exact congrFun rfl
+
+noncomputable instance fintype : Fintype (GL (Fin n) 𝔽) := by
+    exact Fintype.ofFinite (GL (Fin n) 𝔽)
+
```
Comment (CBirkbeck) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup.lean:415]: Again the bot is complaining that the indentation isnt correct. I've fixed it in the suggestion.

**Review by CBirkbeck — COMMENTED** [review]
I've left some comments on the code, it looks pretty good to me, only some minor fixes/golfing.

**Comment by ThomasLanard** [comment]
Thank you! I've made the corrections that were suggested.

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup.lean (hunk 8 above)
Comment (ThomasLanard) [reply Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup.lean]: Here, I removed the `hn` in the `simp only` in the suggested change.

**Comment by grunweg** [comment]
Coming here for issue triage: it seems you're looking for review on this PR; I have labelled it `awaiting-review` accordingly.
Also note that this PR cannot be merged while it is in draft mode. If you consider it ready for review, would you like to un-draft it? (Draft PRs also do not show up in the review queue.)

**Comment by riccardobrasca** [comment]
Can you please mark "resolved" the comments that you took into account?

There is also an error related to imports (this should be very easy to resolve). Thanks!

File: Mathlib/LinearAlgebra/CliffordAlgebra/Basic.lean [hunk 10]
```diff
@@ -197,6 +197,7 @@ theorem hom_ext {A : Type*} [Semiring A] [Algebra R A] {f g : CliffordAlgebra Q
 #align clifford_algebra.hom_ext CliffordAlgebra.hom_ext
 
 -- This proof closely follows `TensorAlgebra.induction`
+attribute [-instance] IntermediateField.module' normalClosure.algebra in
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/CliffordAlgebra/Basic.lean:200]: Can you add a comment explaining why this is needed?

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup.lean [hunk 11]
```diff
@@ -329,4 +331,92 @@ def planeConformalMatrix {R} [Field R] (a b : R) (hab : a ^ 2 + b ^ 2 ≠ 0) :
 -/
 end Examples
 
+section cardinal
+
+variable (n : ℕ) {𝔽 : Type*} [Field 𝔽] [Fintype 𝔽]
+
+local notation "q" => Fintype.card 𝔽
+
+noncomputable instance {k : ℕ} :
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup.lean:340]: Those are the instance that create the problem in the other file, right? What about making them `lemma` and make them local instances in this section?

Comment (riccardobrasca) [reply Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup.lean:340]: Anyway you have several `{k : ℕ} {s : { s : Fin k → Fin n → 𝔽 // LinearIndependent 𝔽 s }}`. You can just put those in a `variable` line.

**Review by riccardobrasca — CHANGES_REQUESTED** [review]
Thinking a little bit more about it, maybe you can use [Nat.card](https://leanprover-community.github.io/mathlib4_docs/Mathlib/SetTheory/Cardinal/Finite.html#Nat.card) and completely avoid various `Fintype` instances. It seems to me the best way of doing stuff. Note that you may need the instances in *proofs* (to make the link between `Nat.card` and `Fintype.card`, that has a better API), but there is no need to create global instances.

**Comment by ThomasLanard** [comment]
> Thinking a little bit more about it, maybe you can use [Nat.card](https://leanprover-community.github.io/mathlib4_docs/Mathlib/SetTheory/Cardinal/Finite.html#Nat.card) and completely avoid various `Fintype` instances. It seems to me the best way of doing stuff. Note that you may need the instances in _proofs_ (to make the link between `Nat.card` and `Fintype.card`, that has a better API), but there is no need to create global instances.

I changed the Fintype.card into Nat.card and suppressed all the instances (hence, also the modification in the file about Clifford algebra).

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup.lean [hunk 12]
```diff
@@ -329,4 +331,85 @@ def planeConformalMatrix {R} [Field R] (a b : R) (hab : a ^ 2 + b ^ 2 ≠ 0) :
...
+    have : Nonempty (Fin n) := Fin.pos_iff_nonempty.1 hn
+    have hdim : Fintype.card (Fin n) = FiniteDimensional.finrank F (Fin n → F) := by
+      simp only [Fintype.card_fin, FiniteDimensional.finrank_fintype_fun_eq_card]
+    let b := basisOfLinearIndependentOfCardEqFinrank M.2 hdim
+    rw [show M = ⇑b by simp only [b, coe_basisOfLinearIndependentOfCardEqFinrank]]
+    have : Invertible ((Pi.basisFun F (Fin n)).toMatrix ⇑b) :=
+      (Pi.basisFun F (Fin n)).invertibleToMatrix b
+    exact isUnit_det_of_invertible _
+  left_inv := fun x ↦ Units.ext (ext fun i j ↦ rfl)
+  right_inv := by exact congrFun rfl
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup.lean:403]:
```suggestion
noncomputable def equiv_GL_linearindependent {F : Type*} [Field F] (hn : 0 < n) :
    GL (Fin n) F ≃ { s : Fin n → (Fin n → F) // LinearIndependent F s } where
  toFun M := ⟨transpose M, by
    apply linearIndependent_iff_card_eq_finrank_span.2
    rw [Set.finrank, ← rank_eq_finrank_span_cols, rank_unit]⟩
  invFun M := GeneralLinearGroup.mk'' (transpose (M.1)) <| by
    have : Nonempty (Fin n) := Fin.pos_iff_nonempty.1 hn
    rw [← Basis.coePiBasisFun.toMatrix_eq_transpose,
      ← coe_basisOfLinearIndependentOfCardEqFinrank M.2]
    let b := basisOfLinearIndependentOfCardEqFinrank M.2 (by simp)
    have := (Pi.basisFun F (Fin n)).invertibleToMatrix b
    exact isUnit_det_of_invertible _
  left_inv := fun x ↦ Units.ext (ext fun i j ↦ rfl)
  right_inv := by exact congrFun rfl
```
In general it is better to avoid `rw [show ... by rfl]`: if there is a lemma you can rewrite just use it, otherwise you can add it. The reason is that if at some point someone change the definitions involved your proof will break and it will difficult to maintain (on the other hand, if you rewrite a lemma it will be that lemma that will broke and it is usually easier to fix).

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup.lean [hunk 13]
```diff
@@ -329,4 +331,85 @@ def planeConformalMatrix {R} [Field R] (a b : R) (hab : a ^ 2 + b ^ 2 ≠ 0) :
...
+
+theorem card_GL : Nat.card (GL (Fin n) 𝔽) = ∏ i : (Fin n), (q ^ (n) - q ^ ( i : ℕ )) := by
+  by_cases hn : n = 0
+  · rw [hn]
+    simp only [Nat.card_eq_fintype_card, Fintype.card_unique, Finset.univ_eq_empty, pow_zero,
+      Finset.prod_empty]
+  · rw [Nat.card_congr (equiv_GL_linearindependent n (Nat.pos_of_ne_zero hn))]
+    exact card_LinearInependent_subtype _ (Nat.le_refl n)
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup.lean:411]:
```suggestion
theorem card_GL : Nat.card (GL (Fin n) 𝔽) = ∏ i : (Fin n), (q ^ (n) - q ^ ( i : ℕ )) := by
  rcases Nat.eq_zero_or_pos n with rfl | hn
  · simp [Nat.card_eq_fintype_card]
  · rw [Nat.card_congr (equiv_GL_linearindependent n hn)]
    exact card_LinearInependent_subtype _ rfl.le
```
Using `rcases` with `rfl` is a nice trick: the first cases is `n=0`, and writing `rfl` replaces `n` with `0` everywhere.

Can you add a docstring to this theorem and add it in the description at the beginning of the file? Thanks!

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup.lean [hunk 14]
```diff
@@ -329,4 +331,85 @@ def planeConformalMatrix {R} [Field R] (a b : R) (hab : a ^ 2 + b ^ 2 ≠ 0) :
...
+      Σ s : { s : Fin k → Fin n → 𝔽 // LinearIndependent 𝔽 s },
+        ((Submodule.span 𝔽 (Set.range (s : Fin k → Fin n → 𝔽)))ᶜ : Set (Fin n → 𝔽)) where
+  toFun s := by
+    refine ⟨⟨Fin.tail s.val, (linearIndependent_fin_succ.mp s.property).left⟩,
+      ⟨s.val 0, (linearIndependent_fin_succ.mp s.property).right⟩⟩
+  invFun s := by
+    refine ⟨Fin.cons s.2.val s.1.val, linearIndependent_fin_cons.mpr ⟨s.1.property, s.2.property⟩⟩
+  left_inv _ := by simp only [Fin.cons_self_tail, Subtype.coe_eta]
+  right_inv := fun ⟨_, _⟩ => by simp only [Fin.cons_zero, Subtype.coe_eta, Sigma.mk.inj_iff,
+    Fin.tail_cons, heq_eq_eq, and_self]
```
[the remark this answers is not in the document]
Comment (riccardobrasca) [reply Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup.lean:354]: In general we try to avoid producing "data" (like a function) in tactic mode.

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup.lean (hunk 12 above)
Comment (riccardobrasca) [reply Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup.lean:403]: Well, it's even already there!

**Comment by riccardobrasca** [comment]
Even better, we may have *three* files: `Defs`, `Basic` and `Card`, this is what we usually do nowadays. Maybe a preliminary PR doing the split is the way to go.

**Comment by ThomasLanard** [comment]
After thinking about it, I found it a bit weird to split the GeneralLinearGroup.lean file into a folder. For instance, there is also a SpecialLinearGroup.lean file and not a folder. Thus instead I added a Card.lean file into the folder Matrix which could contain different statements about cardinals of subsets of matrices. For instance, I added a simple result about the cardinal of the set of matrices over a finite field.

I moved equiv_linearIndependent to Mathlib.LinearAlgebra.LinearIndependent. But I don’t know where to put card_linearInependent.

**Comment by riccardobrasca** [comment]
What I am proposing is to split the existing file `GeneraliLinearGroup` into two files `GeneraliLinearGroup.Defs` and ``GeneraliLinearGroup.Basic`, and then add a file `GeneraliLinearGroup.Card` containing your result. It's better to do the splitting in another PR (this kind of PRs are usually reviewed very quickly since nothing has really changed), and then updating this one. I know it looks a slow process, but mathlib is a huge library, and it is better to waste some time but doing things properly.

I can do it you want.

**Comment by riccardobrasca** [comment]
Now the file should go in the `GeneralLinearGroup` folder.

File: Mathlib.lean [hunk 15]
```diff
@@ -2836,6 +2836,7 @@ import Mathlib.LinearAlgebra.Matrix.Adjugate
 import Mathlib.LinearAlgebra.Matrix.Basis
 import Mathlib.LinearAlgebra.Matrix.BilinearForm
 import Mathlib.LinearAlgebra.Matrix.Block
+import Mathlib.LinearAlgebra.Matrix.Card
```
Comment (riccardobrasca) [inline Mathlib.lean:2839]: It will complain here.

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

**Comment by CBirkbeck** [comment]
Thanks for doing all of this!

**Comment by riccardobrasca** [comment]
Interesting that we don't need commutativity for the formula to hold (I know commutativity is secretly there, but we don't need to know it).

**Comment by ThomasLanard** [comment]
> Interesting that we don't need commutativity for the formula to hold (I know commutativity is secretly there, but we don't need to know it).

I have imported `Mathlib.RingTheory.LittleWedderburn` to have commutativity!

**Comment by riccardobrasca** [comment]
> > Interesting that we don't need commutativity for the formula to hold (I know commutativity is secretly there, but we don't need to know it).
> 
> I have imported `Mathlib.RingTheory.LittleWedderburn` to have commutativity! It is the only reason for this import.

Oh, I didn't notice it. I suggest to not import it and prove it for `Field` then.

**Comment by ThomasLanard** [comment]
Thank you!

bors r+
